US09315507B2
2-(4-(Adamantan-1-yl)phenoxy)-N-cyclopropylacetamide (I-2)
The title compound was prepared from 2-(4-(adamantan-1-yl)phenoxy)acetic acid (0.2 g, 0.69 mmol) and cyclopropylamine (0.039 g, 0.69 mmol) according to the example 1, which was given 2-(4-(adamantan-1-yl)phenoxy)-N-cyclopropylacetamide as a white solid (0.198 g, 87.4% yield).

reactant | 2-(4-(adamantan-1-yl)phenoxy)acetic acid | 0.69 mmol, 0.2 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)O)C=C2 | C18H22O3
reactant | cyclopropylamine | 0.69 mmol, 0.039 g | C1(CC1)N | C3H7N
product | 2-(4-(adamantan-1-yl)phenoxy)-N-cyclopropylacetamide | 0.198 g, 87.4% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)NC3CC3)C=C2 | C21H27NO2
